US20010020030A1
ethyl 3,5-dichlorpyridine-4-carboxylate
To a stirred solution of lithium diisopropylamide (45 mL, 1.5 M in THF, 67.6 mmol) in 150 mL THF at −78° C. is treated with 3,5-dichloropyridine (10 g, 67.6 mmol) in 40 mL THF over 1.5 hours, stirred for 1 hour at −78° C., treated with ethyl chloroformate (9.5 mL, 100 mmol), stirred for 2 hours, transferred into saturated sodium bicarbonate (200 ml) at 0° C., treated with diethyl ether (200 ml), and extracted with ethyl ether (2×100 mL). The extract is washed sequentially with saturated sodium bicarbonate solution (2×100 mL), brine (2×100 mL), dried (MgSO4), and concentrated. The residue is purified by flash chromatography on silica gel with hexane/ethyl acetate to provide the title compound.

reactant | lithium diisopropylamide | 67.6 mmol, 1.5 M, 45 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,5-dichloropyridine | 67.6 mmol, 10 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | ethyl chloroformate | 100 mmol, 9.5 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | ethyl 3,5-dichlorpyridine-4-carboxylate | ClC=1C=NC=C(C1C(=O)OCC)Cl | C8H7Cl2NO2
